US09212187B2
Synthesis of 2-[2-({3-[4-(morpholine-4-carbonyl)phenoxy]propyl}-pyridin-4-ylmethylamino)ethyl]-2H-isoquinolin-1-one dihydrochloride
2-(2-{[3-(4-Bromophenoxy)propyl]pyridin-4-ylmethylamino}ethyl)-2H-isoquinolin-1-one(500 mg), hexacarbonyl molybdenum(264 mg), trans-di-μ-acetatobis[2-(di-o-tolylphosphino)benzyl]dipalladium (II) (Herrmann's palladacycle) (23 mg), sodium carbonate(318 mg), and morpholine(0.26 ml) were added to THF(5 ml). The mixture was heated at 170° C. for 10 minutes (microwave reactor). The reaction mixture was cooled to room temperature. Water and ethyl acetate were added thereto, followed by celite filtration. The organic layer was dried with sodium sulfate, and condensed under reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate: methanol=1:0→7:3). The purified product was condensed under reduced pressure. A 4N-hydrogen chloride ethyl acetate solution was added to an ethyl acetate solution of the residue. The precipitated insoluble matter was separated, washed with ethyl acetate, and dried to give the title compound(150 mg) as a white powder.

reactant | 2-(2-{[3-(4-Bromophenoxy)propyl]pyridin-4-ylmethylamino}ethyl)-2H-isoquinolin-1-one | 500 mg | BrC1=CC=C(OCCCN(CCN2C(C3=CC=CC=C3C=C2)=O)CC2=CC=NC=C2)C=C1 | C26H26BrN3O2
reactant | sodium carbonate | 318 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | morpholine | 0.26 ml | N1CCOCC1 | C4H9NO
reactant | hydrogen chloride ethyl acetate | C(C)OC(C)=O.Cl
catalyst | hexacarbonyl molybdenum | 264 mg | C(=O)=[Mo](=C=O)(=C=O)(=C=O)(=C=O)=C=O
catalyst | trans-di-μ-acetatobis[2-(di-o-tolylphosphino)benzyl]dipalladium (II) | 23 mg | CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3[CH2-].CC1=CC=CC=C1P(C2=CC=CC=C2C)C3=CC=CC=C3[CH2-].CC(=O)O.CC(=O)O.[Pd].[Pd]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 2-[2-({3-[4-(morpholine-4-carbonyl)phenoxy]propyl}-pyridin-4-ylmethylamino)ethyl]-2H-isoquinolin-1-one dihydrochloride | 150 mg | Cl.Cl.N1(CCOCC1)C(=O)C1=CC=C(OCCCN(CCN2C(C3=CC=CC=C3C=C2)=O)CC2=CC=NC=C2)C=C1 | InChI=1S/C31H34N4O4.2ClH/c36-30(35-19-22-38-23-20-35)27-6-8-28(9-7-27)39-21-3-15-33(24-25-10-13-32-14-11-25)17-18-34-16-12-26-4-1-2-5-29(26)31(34)37;;/h1-2,4-14,16H,3,15,17-24H2;2*1H
